** sch_path: /home/dhruvs/DhruvS_Analog_Bootcamp/analog/bootcamp_opamp/schematics/tb_impedance.sch
**.subckt tb_impedance
VDD net1 GND 1.8
VSS net2 GND -1.8
x1 net1 VOUT GND VOUT net2 opamp_two_stage
VTEST VOUT GND dc 0 ac 1
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/dhruvs/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/dhruvs/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/dhruvs/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/dhruvs/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice


.option scale=1u
.save all
.ac dec 10 1 100k
.control
  run
  let zout = abs(1 / vtest#branch)
  meas ac zout_dc find zout at=1
  print zout_dc
.endc

**** end user architecture code
**.ends

* expanding   symbol:  opamp_two_stage.sym # of pins=5
** sym_path: /home/dhruvs/DhruvS_Analog_Bootcamp/analog/bootcamp_opamp/symbols/opamp_two_stage.sym
** sch_path: /home/dhruvs/DhruvS_Analog_Bootcamp/analog/bootcamp_opamp/symbols/opamp_two_stage.sch
.subckt opamp_two_stage VDD VOUT VIN_P VIN_N VSS
*.iopin VDD
*.iopin VSS
*.ipin VIN_P
*.ipin VIN_N
*.opin VOUT
XM1 net2 VIN_P net1 VSS sky130_fd_pr__nfet_01v8 L=1 W=30 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 VIN_N net1 VSS sky130_fd_pr__nfet_01v8 L=1 W=30 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=60 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=60 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=60 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 VOUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=60 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 VOUT net4 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=30 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM_bias net4 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=2 W=60 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR_ref net4 VDD VSS sky130_fd_pr__res_high_po W=0.35 L=32 mult=1 m=1
Cc net3 net5 10p m=1
Rz net5 VOUT 2k m=1
.ends

.GLOBAL GND
.end
